US08877934B2
Step B: (E)-N-[2-[(5-Ethyl-6-methyl-pyrimidin-4-yl)amino]ethyl]-4-methyl-pent-2-enamide
(E)-4-Methylpent-2-enoic acid (46 mg, 0.4 mmol), HBTU (152 mg, 0.4 mmol) and triethylamine (82 μl, 0.6 mmol) were dissolved in a 1:1 mixture of anhydrous DMF and anhydrous acetonitrile (2 ml), after 20 minutes N-(5-ethyl-6-methyl-pyrimidin-4-yl)ethane-1,2-diamine hydrochloride (40 mg, 0.185 mmol) was added. The mixture was stirred at room temperature for 2 hours and left to stand at room temperature overnight. The reaction mixture was diluted with ethyl acetate, washed with water, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated to dryness under reduced pressure. The residue was purified by preparative HPLC (gradient of water containing 0.1% NH3 and acetonitrile) to yield 9 mg (0.033 mmol, 18%).

reactant | (E)-4-Methylpent-2-enoic acid | 0.4 mmol, 46 mg | CC(/C=C/C(=O)O)C | C6H10O2
reactant | HBTU | 0.4 mmol, 152 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.6 mmol, 82 μl | C(C)N(CC)CC | C6H15N
reactant | N-(5-ethyl-6-methyl-pyrimidin-4-yl)ethane-1,2-diamine hydrochloride | 0.185 mmol, 40 mg | Cl.C(C)C=1C(=NC=NC1C)NCCN
solvent | DMF | CN(C)C=O | C3H7NO
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-N-[2-[(5-Ethyl-6-methyl-pyrimidin-4-yl)amino]ethyl]-4-methyl-pent-2-enamide | C(C)C=1C(=NC=NC1C)NCCNC(\C=C\C(C)C)=O | C15H24N4O
